US04643990
Starting from Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine (2.68 g) prepared by the method of Example 20 (1), and L-threonine (0.95 g), N-[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-L-threonine (2.4 g) was obtained as crystals according to a similar manner to that of Example 32.

reactant | Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine | 2.68 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C48H84N2O7
reactant | L-threonine | 0.95 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
product | N-[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-L-threonine | 2.4 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)O)CCCCCCCCCCCCCCC | C52H91N3O9
